Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]#[C:3][C:4]([C:5]#[C:6][H:7])=[O:8].[H:9]>>[H:1][C:2]#[C:3][C:4]([C:5]#[C:6][H:7])[O:8][H:9],-2.41861324289
[O:1][C:2]#[C:3][C:4]#[C:5][O:6]>>[C:4][C:5][O:6].[O:1][C:2][C:3],5.71142746292
[C:1].[C:2]([H:3])=[C:4]([H:5])[O:6][C:7]=[C:8]([H:9])[H:10]>>[C:1]/[C:2]([H:3])=[C:4](\[H:5])[O:6][C:7][C:8]([H:9])[H:10],-4.78625785124
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([H:3])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:4],4.29993043165
[C:1]#[C:2][C:9]([H:10])([H:11])[H:12].[C:3]([H:4])[O:5][C:6]([H:7])[H:8]>>[C:1]=[C:2]([C:3]([H:4])[O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-3.65170044271
[H:10].[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])[O:11][H:12]>>[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12],-4.19341566508
[H:14].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[C:12]([H:13])[C:15]([H:16])([H:17])[H:18]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-4.33799206334
[O:1]=[C:2](/[C:3]([H:4])=[C:5](\[H:6])[O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:8].[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])=[O:7])[C:9]([H:10])([H:11])[H:12],3.90961717898
[C:5]([H:6])([H:7])[H:8].[O:1]=[C:2]([C:3][H:4])[C:9]([H:10])([H:11])[O:12][H:13]>>[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13],-4.6780227835
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([C:13]([H:14])([H:15])[H:16])[C:17]([H:18])([H:19])[H:20]>>[H:1][C:2]([H:3])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([C:13]([H:14])([H:15])[H:16])[C:17]([H:18])([H:19])[H:20].[H:4],4.56126919389
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])[C:7]([H:8])([H:9])[O:10][H:11],3.57240084745
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:7]([H:8])=[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6],4.19508038482
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12]>>[C:1]#[C:2][C:3]([H:4])([H:5])[H:6].[C:7]([H:8])([H:9])[C:10]#[C:11][H:12],2.73317544715
[H:1][C:2]1([H:3])[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]1([H:13])[H:14]>>[H:14].[H:1][C:2]1([H:3])[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]1[H:13],4.3778244415400005
[H:1][C:2]/[C:3]([H:4])=[C:5](\[O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:5]([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]#[C:3][H:4],1.12864496979
[C:2][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:5]#[C:3][H:4]>>[H:1][C:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.60278598677
[C:1][C:2]#[C:4][C:5]([H:6])=[C:7]([H:8])[H:9].[C:3]>>[C:1]#[C:2][C:3]#[C:4][C:5]([H:6])=[C:7]([H:8])[H:9],-6.849176920340001
[C:1].[C:2]([O:3][C:4][H:5])[C:6]([H:7])([H:8])[H:9]>>[C:1]=[C:2]([O:3][C:4][H:5])[C:6]([H:7])([H:8])[H:9],-6.33122099628
[O:1]=[C:2]([H:3])[O:4][C:5]=[C:6]([H:7])[H:8]>>[H:3].[O:1]=[C:2][O:4][C:5]=[C:6]([H:7])[H:8],4.40617370383
[C:3](#[C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2]>>[H:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-2.84282006685
[H:1][C:2](=[O:3])[C:5]([O:4])([H:6])[H:7]>>[H:1][C:2]1[O:3][O:4][C:5]1([H:6])[H:7],2.6901415518
[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:1][O:2][O:3]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-2.972034159040001
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[C:1]#[C:2][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[C:3]([H:4])([H:5])[H:6],3.67678385843
[H:15].[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11])=[C:12]([H:13])[H:14]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.99637453684
[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-3.71097759143
[H:7].[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6]/[C:8]([H:9])([H:10])[O:11][H:12]>>[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[O:11][H:12],-4.90222574883
[O:1][O:2][C:3][C:8]([C:4]=[C:5]([H:6])[H:7])([H:9])[H:10]>>[O:1][O:2][C:3]1=[C:4]([C:5]([H:6])[H:7])[C:8]1([H:9])[H:10],-2.74576903723
[C:8][C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6][H:7]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12],-6.94078346531
